US04597902
N-[2-[(Phenylmethyl)sulfonyl]ethyl]-2-propanamine hydrochloride[1:1]
A mixture of 51.49 g (0.236 mole) of benzyl 2-chloroethyl sulfone and 600 ml of isopropylamine was stirred at room temperature for 72 hr. The solvent was removed in vacuo, and the residue was partitioned between ether and dilute sodium hydroxide. The ether solution was dried over magnesium sulfate, and the solvent was removed in vacuo to give an oil. This was dissolved in methanol, and excess ethereal hydrogen chloride was added. Ether was added, and a white solid precipitated to give 43.11 g (65.8%) of a white crystalline solid, m.p. 180.5°-181.5° C.

reactant | benzyl 2-chloroethyl sulfone | 0.236 mole, 51.49 g | ClCCS(=O)(=O)CC1=CC=CC=C1 | C9H11ClO2S
reactant | isopropylamine | 600 ml | C(C)(C)N | C3H9N
reactant | hydrogen chloride | Cl | ClH
reactant | Ether | CCOCC | C4H10O
solvent | methanol | CO | CH4O
product | N-[2-[(Phenylmethyl)sulfonyl]ethyl]-2-propanamine hydrochloride | 43.11 g, 65.8% | Cl.C1(=CC=CC=C1)CS(=O)(=O)CCNC(C)C | InChI=1S/C12H19NO2S.ClH/c1-11(2)13-8-9-16(14,15)10-12-6-4-3-5-7-12;/h3-7,11,13H,8-10H2,1-2H3;1H
